US09427475B2
Step A: 3-(2,3,4-tri-O-acetyl-α-L-fucopyranosyl)-1-propene
To a solution of 1,2,3,4-tetra-O-acetyl-α-L-fucopyranose (12 g, 36.1 mmol) and allyltrimethyl silane (11.48 mL, 72.2 mmol) in AcCN (60 mL) at 0° C. was added TMS-OTf (3.52 mL, 19.50 mmol). The reaction mixture was stirred at 0° C. for 18 hr and then at rt for 6 hr. The resulting red solution was diluted with CH2Cl2 (250 mL) and sat'd NaHCO3 (150 mL) was added carefully. The aqueous layer was separated and extracted with CH2Cl2 (2×50 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel (220 g), eluting with 15% EtOAc in hexanes to give the title compound. 1H NMR (CDCl3, 400 MHz) δ 1.16 (d, J=6.4, 3H), 2.04 (s, 3H), 2.08 (s, 3H), 2.18 (s, 3H), 2.34 (m, 1H), 2.57 (m, 1H), 4.00 (m, 1H), 4.29 (dt, J=10.4, 7.3, 1H), 5.13 (m, 2H), 5.23 (dd, J=10.0, 3.4, 1H), 5.30 (dd, J=3.4, 1.9, 1H), 5.35 (dd, J=10.0, 5.6, 1H), 5.77 (m, 1H).

reactant | 1,2,3,4-tetra-O-acetyl-α-L-fucopyranose | 36.1 mmol, 12 g | C(C)(=O)O[C@H]1[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](O1)C | C14H20O9
reactant | allyltrimethyl silane | 72.2 mmol, 11.48 mL | C(C=C)[Si](C)(C)C | C6H14Si
reactant | TMS-OTf | 19.50 mmol, 3.52 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | AcCN | 60 mL | C(=O)(C)C#N | C3H3NO
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 150 mL | C(=O)(O)[O-].[Na+]
product | 3-(2,3,4-tri-O-acetyl-α-L-fucopyranosyl)-1-propene | C(C)(=O)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C)CC=C | C15H22O7
